# Astable Multivibrator

V:V1 npos gnd V=5
R:Rc1 npos nc1 R=320
R:Rc2 npos nc2 R=320
R:Rb1 npos nb1 R=1k
R:Rb2 npos nb2 R=1k
C:Cc1 nc1 nb2 C=18u V0=0.1
C:Cc2 nc2 nb1 C=18u V0=0.0
BJT:Q1 gnd nb1 nc1 @NPN
BJT:Q2 gnd nb2 nc2 @NPN

.tran stopTime=100m timeStep=0.1m
